US06638926B2
[5-(3-Aminoprop-1-yl)-2H-pyrazol-3-yl]-(2-phenyl-quinazolin-4-yl)-amine (III-79)
A solution of [5-(3-tert-butoxycarbonylaminoprop-1-yl)-2H-pyrazol-3-yl]-(2-phenyl-quinazolin-4-yl)-amine (III-80) (250 mg, 0.56 mmol), in dichloromethane (3 mL) at 0° C. was treated with TFA (2 mL). The mixture was warmed to room temperature then concentrated in vacuo. The residue was triturated and concentrated from dichloromethane (3×5 mL) and ether, then triturated with dichloromethane to crystallize the TFA salt. The resulting solid was collected by filtration and dissolved in a mixture of ethanol (3 mL) and water (3 mL). Potassium carbonate was added in portions to achieve pH 8 then the mixture allowed to crystallize. The product was collected by filtration and dried at 80° C. under vacuum to afford III-79 as an off-white powder (122 mg, 63%): mp 205-207° C.; 1H NMR (DMSO) δ1.68-1.83 (2H, m), 2.65-2.80(4H, m), 6.80 (1H, s), 7.50-7.60 (4H, m), 7.80-7.90 (2H, m), 8.45-8.53 (2H, m), 8.65 (1H, d), 10.45 (1H, br s); IR (solid) 1621, 1598, 1568, 1533, 1484, 1414, 1364, 1327, 1169, 1030, 951, 830, 776, 764, 705, 677; MS 345.3(M+H)+.

reactant | [5-(3-tert-butoxycarbonylaminoprop-1-yl)-2H-pyrazol-3-yl]-(2-phenyl-quinazolin-4-yl)-amine | 0.56 mmol, 250 mg | C(C)(C)(C)OC(=O)NCCCC=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C25H28N6O2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | [5-(3-Aminoprop-1-yl)-2H-pyrazol-3-yl]-(2-phenyl-quinazolin-4-yl)-amine | 122 mg, 63% | NCCCC=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C20H20N6
